US08071768B2
a) 5-Nitro-2-pyrrolidin-1-yl-pyrimidine
Prepared essentially as described in Example 69a, using 2-chloro-5-nitro-pyrimidine and pyrrolidine. 1H NMR (DMSO-d6) δ 9.11 (s, 2H), 3.62 (m, 4H), 1.97 (m, 4H).

reactant | 2-chloro-5-nitro-pyrimidine | ClC1=NC=C(C=N1)[N+](=O)[O-] | C4H2ClN3O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 5-Nitro-2-pyrrolidin-1-yl-pyrimidine | [N+](=O)([O-])C=1C=NC(=NC1)N1CCCC1 | C8H10N4O2
